US05864040
Step (1) Preparation of [(4-Chloro-2-nitro-phenylamino)-methyl]-phosphonic acid diethyl ester.
With stirring and under a nitrogen atmosphere 4-chloro-2-nitroaniline (5 g, 28.9 mmole) was dissolved in diethylphosphite (21.44 g, 155 mmole), followed by the addition of a solution of sulfuric acid (0.1 mL) and water (0.1 mL). Under a continuous flow of nitrogen the solution was heated to 95° C., after which diethoxymethane (9.05 g, 86.8 mmole) was added in a dropwise manner over a period of 1.5 hours while maintaining the temperature between 93°-97° C. Once all the diethoxymethane was added, the reaction was kept at 95°-105° C. for another hour after which the mixture was cooled to 45°-50° C. and cold water (70 mL) was added over 20 minutes. The resulting suspension was filtered, washed first with water (10 mL), then with heptane (10 mL). The obtained orange solid was dried at 30°-40° C. for 16 hours to yield 8.85 g (95%) of the title compound, mp 94°-5° C.

reactant | 4-chloro-2-nitroaniline | 28.9 mmole, 5 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | diethylphosphite | 155 mmole, 21.44 g | C(C)OP(OCC)[O-]
reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | diethoxymethane | 86.8 mmole, 9.05 g | C(C)OCOCC | C5H12O2
solvent | water | 70 mL | O | H2O
solvent | water | 0.1 mL | O | H2O
product | [(4-Chloro-2-nitro-phenylamino)-methyl]-phosphonic acid diethyl ester | 8.85 g, 95% | C(C)OP(OCC)(=O)CNC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C11H16ClN2O5P
